US05401772
To a solution of 2.2 g (5.55 mmol) of (4-fluorophenyl)[2-methoxy-5-(2,6-dimethyl-4-nitrophenoxy) phenyl]methanone in 10 ml methylene chloride and 3 ml trifluoroacetic acid is added 2.1 g (18.0 mmol) of triethylsilane. The solution is stirred overnight at room temperature, then diluted with ether (100 ml) and washed with water, 5% aqueous sodium carbonate, water, dried (CaSO4) and evaporated. The residual oil is flash chromatographed to give 1-[(4-fluorophenyl)methyl]-2-methoxy-5-(2,6-dimethyl-4-nitrophenoxy)benzene, m.p. 105°-110°.

reactant | (4-fluorophenyl)[2-methoxy-5-(2,6-dimethyl-4-nitrophenoxy) phenyl]methanone | 5.55 mmol, 2.2 g | FC1=CC=C(C=C1)C(=O)C1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)OC | C22H18FNO5
reactant | triethylsilane | 18.0 mmol, 2.1 g | C(C)[SiH](CC)CC | C6H16Si
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-[(4-fluorophenyl)methyl]-2-methoxy-5-(2,6-dimethyl-4-nitrophenoxy)benzene | FC1=CC=C(C=C1)CC1=C(C=CC(=C1)OC1=C(C=C(C=C1C)[N+](=O)[O-])C)OC | C22H20FNO4
